US04324796
(g) 7-(4-Chlorophenyl)heptanoic acid
80 g of 5-(4-chlorophenyl)pentylmalonic acid ethyl ester are boiled under reflux with 45 g of potassium hydroxide in 230 ml of water and 100 ml of ethanol for 5 hours; after cooling, the mixture is adjusted to pH 1-2 with concentrated hydrochloric acid and is extracted 3 times with diethyl ether. The combined organic solutions are concentrated and the residue [5-(4-chlorophenyl)pentylmalonic acid] is heated to 160° for 3.5 hours. The residue consists of 51 g of 7-(4-chlorophenyl)heptanoic acid of m.p. 75° to 78°.

reactant | 5-(4-chlorophenyl)pentylmalonic acid ethyl ester | 80 g | C(C)OC(C(C(=O)O)CCCCCC1=CC=C(C=C1)Cl)=O | C16H21ClO4
reactant | potassium hydroxide | 45 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 230 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-(4-Chlorophenyl)heptanoic acid | ClC1=CC=C(C=C1)CCCCCCC(=O)O | C13H17ClO2
